US04331676
2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester
1 g of zinc powder is added in portions over a period of one hour to a solution, stirred under nitrogen and in an ice bath, of 380 mg (1 mmol) of 2-[(4R)-4-(benzthiazol-2-yldithio)-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester in 3 ml of acetic anhydride and 5 ml of glacial acetic acid. The reaction mixture is further stirred for one hour at room temperature, filtered and concentrated in vacuo. The residue is taken up in methylene chloride and washed in succession with 25% aqueous ammonium chloride solution and aqueous sodium bicarbonate solution. The combined aqueous phases are reextracted with methylene chloride, all the methylene chloride phases are combined, dried with sodium sulphate and concentrated in vacuo. The residue is chromatographed over 40 g of silica gel (deactivated with 10% water) with toluene and toluene/ethyl acetate (19:1) and yields the optically pure title compound having a melting point of 78°-80°; [α]D20 =+149°±1° (c= 1.007%; in CHCl3).

reactant | 2-[(4R)-4-(benzthiazol-2-yldithio)-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | 1 mmol, 380 mg | COC(C(=C(C)C)N1C(C[C@H]1SSC=1SC2=C(N1)C=CC=C2)=O)=O | C16H16N2O3S3
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1 g | [Zn] | Zn
product | 2-[(4R)-4-Acetylthio-2-oxoazetidin-1-yl]-3-methylcrotonic acid methyl ester | COC(C(=C(C)C)N1C(C[C@H]1SC(C)=O)=O)=O | C11H15NO4S
